US08013186B2
A suspension of 60% of NaH in oil (3.84 g, 96 mmol) was washed three times with hexanes and the solid was suspended in dry DMF (80 ml). 4-Fluorophenol (8.96 g, 80 mmol) was slowly added over a period of 5 min and the reaction mixture was stirred at rt for about 10 min. The reaction mixture was cooled at 0° C. and 2-bromo-2,2-difluoroacetic acid ethyl ester (16.24 g, 80 mmol) was slowly added. The reaction mixture was heated at 90° C. for 20 h. After allowing the reaction to reach room temperature, ethyl ether (300 ml) was added and the suspension was washed with water and brine. After drying the organic layer over sodium sulfate for 15 min, the solvent was evaporated and the crude was purified by flash chromatography, using a mixture of ethyl acetate/hexanes (1/10) to give 2,2-difluoro-2-(4-fluorophenoxy)acetic acid ethyl ester as an oil (11.0 g, 59%).

reactant | NaH | [H-].[Na+]
reactant | 4-Fluorophenol | 80 mmol, 8.96 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | 2-bromo-2,2-difluoroacetic acid ethyl ester | 80 mmol, 16.24 g | C(C)OC(C(F)(F)Br)=O | C4H5BrF2O2
solvent | ethyl ether | 300 ml | C(C)OCC | C4H10O
product | 2,2-difluoro-2-(4-fluorophenoxy)acetic acid ethyl ester | 11.0 g, 59% | C(C)OC(C(OC1=CC=C(C=C1)F)(F)F)=O | C10H9F3O3
